US07947834B2
0.17 g of 4-oxo-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester, 0.2 ml of tributylphosphine and 1 ml of N-methylpyrrolidinone are introduced into a 25 ml round-bottomed flask equipped with a magnetic stirrer and placed under a nitrogen atmosphere. The mixture is brought to 155° C. and small fractions of 0.21 g of sodium chlorodifluoroacetate and 1 ml of N-methylpyrrolidinone are added thereto. It is subsequently heated at 155° C. for 1 h and concentrated under reduced pressure. Water and dichloromethane are added to the residue. The organic phase is concentrated under vacuum. The residue is purified by chromatography on silica eluted with dichloromethane. 0.11 g of tert-butyl 4-difluoromethylene-3,4-dihydro-2H-quinoline-1-carbamate is obtained.

reactant | 4-oxo-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.17 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=CC=C12)=O | C14H17NO3
reactant | tributylphosphine | 0.2 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | sodium chlorodifluoroacetate | 0.21 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | N-methylpyrrolidinone | 1 ml | CN1C(CCC1)=O | C5H9NO
reactant | N-methylpyrrolidinone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | tert-butyl 4-difluoromethylene-3,4-dihydro-2H-quinoline-1-carbamate | 0.11 g | FC(=C1CCN(C2=CC=CC=C12)NC(=O)OC(C)(C)C)F | C15H18F2N2O2
